US07229986B2
1-(1-Acetyl-2,3,4,5-tetrahydro-1H-1-benzazepin-8-yl)-3-chloro-1-propanone
Aluminum chloride (30.8 g, 231 mmol) was added to a solution of 1-acetyl-2,3,4,5-tetrahydro-1H-1-benzazepine (17.5 g, 92.5 mmol) and 3-chloropropionyl chloride (13.2 ml, 139 mmol) in dichloroethane under cooling with water-bath, and then the mixture was stirred at 50° C. for 1 day. The reaction solution was poured into iced water and extracted with dichloromethane. The extract was washed with a saturated saline solution and dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The resultant residues were purified by silica gel column chromatography (developing solvent; hexane:ethyl acetate=1:1) and crystallized from hexane, whereby the title compound (8.47 g) was obtained as colorless powder with a mp. of 106 to 107° C.

reactant | Aluminum chloride | 231 mmol, 30.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-acetyl-2,3,4,5-tetrahydro-1H-1-benzazepine | 92.5 mmol, 17.5 g | C(C)(=O)N1CCCCC2=C1C=CC=C2 | C12H15NO
reactant | 3-chloropropionyl chloride | 139 mmol, 13.2 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | water | O | H2O
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 1-(1-Acetyl-2,3,4,5-tetrahydro-1H-1-benzazepin-8-yl)-3-chloro-1-propanone | C(C)(=O)N1CCCCC2=C1C=C(C=C2)C(CCCl)=O | C15H18ClNO2
